US05994396
Synthesis of (N-n-Butylcarbamoyl)methyltriphenylphosphonium Chloride
A solution of triphenyl phosphine (26.23 g, 0.1 mol) and n-butyl chloroacetamide (14.96 g, 0.1 mol) in toluene (250 mL) was refluxed with stirring for 22 h. After cooling to room temperature, the mixture was filtered and dried under high vacuum to afford 36.72 g (89.1% yield) of the title compound as white crystals. This material was used without further purification.

reactant | triphenyl phosphine | 0.1 mol, 26.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butyl chloroacetamide | 0.1 mol, 14.96 g | C(CCC)C(C(=O)N)Cl | C6H12ClNO
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | (N-n-Butylcarbamoyl)methyltriphenylphosphonium Chloride | 36.72 g, 89.1% yield | [Cl-].C(CCC)NC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26NOP.ClH/c1-2-3-19-25-24(26)20-27(21-13-7-4-8-14-21,22-15-9-5-10-16-22)23-17-11-6-12-18-23;/h4-18H,2-3,19-20H2,1H3;1H
